US09212254B2
Tetrahydrofuran (100 ml) and tetrachlorosilane (17.0 g, 100 mmol) were placed in a 500 mL four-necked flask in a nitrogen atmosphere, and cooled to −10° C. 3,7-dimethyloctyl magnesium bromide (Sigma-Aldrich Co. LLC., 1.0 M, 100 ml) was added dropwise, and the mixture was agitated for 1 hour at 10° C. or less. The temperature was raised gradually to room temperature over the course of about 1 hour, and the mixture was left standing overnight. The precipitated salt was filtered out, the tetrahydrofuran was removed by concentration under reduced pressure, and the mixture was distilled under reduced pressure to obtain the target 3,7-dimethyloctyl trichlorosilane (99-102° C./0.3 Torr, 22.3 g, yield 81%).

reactant | tetrachlorosilane | 100 mmol, 17.0 g | Cl[Si](Cl)(Cl)Cl | Cl4Si
reactant | 3,7-dimethyloctyl magnesium bromide | 1.0 M, 100 ml | CC(CC[Mg]Br)CCCC(C)C
solvent | Tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3,7-dimethyloctyl trichlorosilane | 22.3 g, yield 81% | CC(CC[Si](Cl)(Cl)Cl)CCCC(C)C | C10H21Cl3Si
